US07863294B2
Step 1: N-[(1E)-6-(2-Ethyl-1,3-dioxolan-2-yl)hexylidene]-2-methylpropane-2-sulfin amide (O1)
A solution of 6-(2-ethyl-1,3-dioxolan-2-yl)hexanal (M3) (1.1 eq.), (R)-(+)-tert-butanesulfinamide (1.0 eq.) and anhydrous copper sulfate (2.2 eq.) in DCM was stirred for 70 h at RT. The reaction mixture was filtered through Celite. The solvent was removed under reduced pressure. The crude product was purified by flash chromatography with hexane/ethyl acetate mixture as eluent to yield the desired product as an oil. 1H NMR (300 MHz, CDCl3) δ: 8.05 (1H, t, J=4.6 Hz), 3.91 (4H, s), 2.60-2.40 (2H, m), 1.70-1.50 (6H, m), 1.47-1.28 (4H, m), 1.18 (9H, s), 0.88 (3H, t, J=7.5 Hz). 13C NMR (75 MHz, CDCl3) δ: 169.6, 111.9, 65.0, 56.5, 36.5, 36.0, 29.8, 29.5, 25.5, 23.5, 22.3, 8.1. MS (ES) C15H29NO3S requires: 303, found: 304 (M+H)+.

reactant | 6-(2-ethyl-1,3-dioxolan-2-yl)hexanal | 1.1 eq. | C(C)C1(OCCO1)CCCCCC=O | C11H20O3
reactant | (R)-(+)-tert-butanesulfinamide | 1.0 eq. | C(C)(C)(C)[S@@](=O)N | C4H11NOS
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper sulfate | 2.2 eq. | S(=O)(=O)([O-])[O-].[Cu+2]
product | N-[(1E)-6-(2-Ethyl-1,3-dioxolan-2-yl)hexylidene]-2-methylpropane-2-sulfin amide | C(C)C1(OCCO1)CCCCC\C=N\S(=O)C(C)(C)C | C15H29NO3S
